US06825233B2
6-Bromo-9,9-dimethyl-3-hydroxy-9,10-dihydrophenanthrene
6-Bromo-9,9-dimethyl-3-oxo-1,2,3,9,10,10a-hexahydrophenanthrene (0.250 g, 0.819 mmol)), palladium(II) dichloride (0.190 g, 10.7 mmol) and tert-butanol (5 ml) were mixed in a sealed tube and heater to 125-135° C. for 4 hours. The reaction is finished when all the palladium has precipitated on the glass wall and a yellow and transparent reaction mixture is observed. Water was then added and the aqueous phase was extracted with ethyl acetate. The organic extracts were dried with anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel chromatography (ethyl acetate/hexane 5:95 to 10:90) to give the title material (0.225 g, 91%).

reactant | 6-Bromo-9,9-dimethyl-3-oxo-1,2,3,9,10,10a-hexahydrophenanthrene | 0.819 mmol, 0.250 g | BrC=1C=C2C3=CC(CCC3CC(C2=CC1)(C)C)=O | C16H17BrO
catalyst | palladium(II) dichloride | 10.7 mmol, 0.190 g | [Pd](Cl)Cl
catalyst | palladium | [Pd] | Pd
solvent | tert-butanol | 5 ml | C(C)(C)(C)O | C4H10O
product | 6-Bromo-9,9-dimethyl-3-hydroxy-9,10-dihydrophenanthrene | 0.225 g, 91% | BrC=1C=C2C=3C=C(C=CC3CC(C2=CC1)(C)C)O | C16H15BrO
